### ISSUE TITLE
[Bug]: blaster never terminates translating structural recursion through a `List.foldlM` closure (PlutusCoreBlaster `encodeData` / the `serialiseData` builtin)

### ISSUE THREAD

**Issue by Luivatra** [input-output-hk/Lean-blaster#152]
## Description

`by blaster` never returns (no error, no timeout, no counterexample) when the goal forces symbolic translation of a function whose recursion goes through a `List.foldlM` closure (a lambda passed to `foldlM` that recursively calls the enclosing function on list elements).

The real-world instance is PlutusCoreBlaster's CBOR encoder [`PlutusCore.Cbor.encodeData`](https://github.com/input-output-hk/PlutusCoreBlaster/blob/a04042c4b7b19c66e7e6fa5bbcc3b1c985894ed0/PlutusCore/Cbor/Basic.lean#L127), the model behind the `serialiseData` builtin. It is a total, structurally recursive definition (explicit `decreasing_by`), and `#eval` on any input is instant, the problem is only in symbolic translation. The consequence is that any imported UPLC validator that calls `serialiseData` on a non-trivial `Data` value cannot be proven at all: we hit this on a production Plutus V3 validator that checks `blake2b_256(serialiseData(config)) == stored_hash`, and a validator-level `blaster` run was left going for hours without producing anything.

The trigger is specifically the recursive/higher-order path: the same goal on an **empty** collection (which takes the encoder's non-recursive branch) proves valid in under a second.

## Steps to Reproduce

Run inside a PlutusCoreBlaster checkout (`main` @ `a04042c4`), or any Lake package depending on it, with `lake env lean <file>`. Put each theorem in its own file, the second one blocks forever.

```lean
import Blaster
import PlutusCore.Cbor.Basic

open PlutusCore.Data (Data)
open PlutusCore.Cbor (encodeData)

-- Control: the empty list takes the encoder's non-recursive branch.
-- Result: ✅ Valid in 0.7 s.
theorem ser_nil : encodeData (Data.List []) = some "\x80" := by blaster

-- One element: forces a single unfolding of the foldlM closure.
-- Result: never returns.
theorem ser_one : encodeData (Data.List [Data.I 1]) ≠ none := by blaster
```

## Expected Behavior

A proof, a counterexample, or a diagnostic in finite time. For a total, structurally recursive function applied to a one-element list, on the order of the empty-list control (0.7 s).

## Actual Behavior

No output at all. The minimized theorem above was killed at 120 s; validator-level instances of the same shape ran for hours before being killed. While it spins, the `lean` process is CPU-bound (~100% of one core) with resident memory climbing past 1.2 GB within the first minute and **no z3 process is ever spawned**, so the divergence is in Blaster's translation/unfolding phase, before the solver is invoked.

## Lean Version

4.24.0

## Z3 Version

4.15.2 (never reached, the process diverges before the solver is invoked)

## Additional Context

- Lean-blaster `main` @ `c576289cb55412b359411d6c89568f95af50730c`; PlutusCoreBlaster `main` @ `a04042c4b7b19c66e7e6fa5bbcc3b1c985894ed0`; Linux x86_64.
- A synthetic function of the same shape (tiny inductive, recursion through a `foldlM` closure, explicit `decreasing_by`) does **not** hang but fails differently, a malformed SMT query, even on the empty-list case, which suggests the `foldlM`-closure translation path is fragile beyond this one hang:

  ```lean
  import Blaster

  inductive Tree where
    | leaf : Int → Tree
    | node : List Tree → Tree

  def enc : Tree → Option String
    | .leaf _ => .some "i"
    | .node xs => List.foldlM (fun s a => do .some (s ++ (← enc a))) "" xs
    decreasing_by
      have : sizeOf a < sizeOf xs := by apply List.sizeOf_lt_of_mem; assumption
      simp; omega

  theorem enc_nil : enc (.node []) = some "" := by blaster
  -- error: Unexpected smt error:
  --   (error "line 112 column 111: unknown constant @List.foldlM._uniq.8298 ...")
  ```

- Workaround we continue testing with: give the `SerializeData` builtin's encoder the same treatment PlutusCoreBlaster already gives every hash builtin (`opaque blake2b_256` etc. in [`Crypto/Hash/Basic.lean`](https://github.com/input-output-hk/PlutusCoreBlaster/blob/a04042c4b7b19c66e7e6fa5bbcc3b1c985894ed0/PlutusCore/Crypto/Hash/Basic.lean#L41)), an `opaque` alias used only at the builtin dispatch, so symbolic tools see an uninterpreted function while compiled evaluation is unchanged. With that in place, the validator-level theorems that hung forever prove in ~6 s. Offered upstream as [PlutusCoreBlaster PR#27](https://github.com/input-output-hk/PlutusCoreBlaster/pull/27); the proper fix in Blaster itself is this issue (and #153  for the independent BitVec wall behind it).

**Comment by etiennejf** [comment]
Thanks for reporting the bug. I will provide a patch for the `unexpected smt error` asap.
However, the smt translation for HOF recursive functions suffers some performance issues. We would like to handle this via recursive function specialization during smt translation. This will avoid generating excessive constraints on symbolic HOF functions, like congruence on args, congruence on functions, extensionality, lambda definitions and variable closure in lambda.

For instance, Blaster is able to prove theorem `enc_nil`, if it's rewritten like this.

```
Inductive Tree where
  | leaf : Int → Tree
  | node : List Tree → Tree

mutual
def fold (xs : List Tree) (acc : String) : Option String :=
  match xs with
  | [] => some acc
  | a :: as =>
      match enc a with
      | some s => fold as (acc ++ s)
      | none => none

def enc : Tree → Option String
  | .leaf _ => .some "i"
  | .node xs => fold xs ""
end

theorem enc_nil : enc (.node []) = some "" := by blaster
```

Moreover, I'm also able to prove theorem `ser_one` with Blaster when rewritting `encodeData` as follows:
```

mutual
/-- Encode data (builtinData). -/
def foldMap (xs : List (Data × Data)) (acc : String) : Option String :=
  match xs with
  | [] => some acc
  | a :: as =>
         match encodeData a.fst, encodeData a.snd with
         | some s1, some s2 =>
              foldMap as (acc ++ s1 ++ s2)
         | _, _ => none

def foldList (xs : List Data) (acc : String) : Option String :=
  match xs with
  | [] => some acc
  | a :: as =>
         match encodeData a with
         | some s => foldList as (acc ++ s)
         | _ => none

def encodeData : Data → Option String
  | .Constr idx fields =>
      if fields.isEmpty then do
        -- empty field list is a DEFINITE empty array (0x80), matching the serialiseData builtin
        (←encodeCtag idx) ++ (String.mk (←encodeHead 4 0))
      else
        match encodeCtag idx, foldList fields "" with
        | some s1, some s2 =>
              s1 ++ (encodeIndef 4 |> String.singleton) ++ s2 ++ "\xFF"
        | _, _ => none
  | .Map mxs =>
       match foldMap mxs "", encodeHead 5 (List.length mxs) with
       | some s, some cs => String.mk cs ++ s
       | _, _ => none
  | .List xs =>
      if xs.isEmpty then
        -- empty list is a DEFINITE empty array (0x80), matching the serialiseData builtin
        String.mk <$> encodeHead 4 0
      else 
        match foldList xs "" with
        | some s => (encodeIndef 4 |> String.singleton) ++ s ++ "\xFF"
        | none => none
  | .I i => encodeInt i
  | .B bs => encodeBytestring bs.data

end
```
I will create the necessary PRs for the above modifications. Moreover, there might still be some issues at the smt translation when explicitly deriving String encoding via list of chars. This will be handled when we will consider the new String representation in the latest Lean4 version.
